US04024271
Reacting 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine with cysteamine hydrochloride by the procedure of Example 1 gives 3-[2-aminoethyl)thiomethyl]-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine.

reactant | 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | OCC1=NC=C2N1CCCC2 | C8H12N2O
reactant | cysteamine hydrochloride | Cl.NCCS
product | 5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C=1N=CN2C1CCCC2 | C7H10N2
